Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfasalazine / unknown topical substance
 
Attending: ___
 
Chief Complaint:
Dysphagia 
 
Major Surgical or Invasive Procedure:
PEG tube placement
Pheresis port removal

 
History of Present Illness:
Ms. ___ is a ___ yo female with approximately 2 months of 
jawpain and progressive dysphagia. She first noted the onset of 
her symptoms on ___ and initially had difficulty tolerating 
solids. This gradually progressed to inability to tolerate 
liquids on ___. She endorses progressive hoarseness since 
that time. Her symptoms were also accompanied by bilateral 
intermittent earaches, headaches, jaw pain and throat irritation 
and she was initially diagnosed with TMJ and GERD. 

She was seen by ENT in ___ and was found to have severe 
crichopharyngeal dysfunction. She underwent microlaryngoscopy 
vocal fold injection for vocal fold hypomobility as well as 
esophagoscopy, esophageal dilation and cricopharyngeal Botox 
injection on ___. 

She was evaluated by neurology with suspicion of motor neuron 
disease given findings of tongue deviation, dysphagia, and 
dysphonia and was ordered for CT, paraneoplastic panel, and 
brain MRI. CT of her neck revealed a 4.6 cm mass adjacent to or 
arising from the left lobe of the thyroid.   

She underwent FNA with report of squamous cell carcinoma and was 
transferred to OMED for further workup and management of newly 
diagnosed head and neck cancer.  

Review of systems is notable for intermittent bilateral 
posterior headache, horseness, and earache. She endorses 
hoarseness and wheezing, though denies shortness of breath and 
chest pain. She cannot endorse odynophagia as she is unable to 
swallow any liquids or solids at this time, and is unable to 
swallow her secretions. She denies abdominal pain, dysuria, 
fevers, chills, muscle aches, joint pains. She does endorse 
constipation.  

 
Past Medical History:
Dysphagia:
She has most recently undergone microlaryngoscopy vocal
fold injection for vocal fold hypomobility as well as
esophagoscopy, esophageal dilation and cricopharyngeal Botox. 
Anxiety
Hip fx in ___ s/p 3 fixation
Hypothyroidism
Migraine headaches 

 
Social History:
___
Family History:
Father had ___ Disease and died at ___
Brother died of amyloidosis 

 
Physical Exam:
Admission Exam

Vitals- 98.2 152/73 78 20 99% RA  
General- Alert, oriented, no acute distress  
HEENT- Right tongue deviation. Sclera anicteric, MMM, oropharynx 
clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Pheresis port in place on right chest 
Neuro- CNs2-12 intact apart from tongue deviation to the right, 
motor function grossly normal, 

Discharge Exam

General- Alert, oriented, uncomfortable due to nausea  
HEENT- Right tongue deviation. Sclera anicteric, MMM, oropharynx 
clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- PEG tube in place, dressing c/d/i. Mild tenderness to 
palpation over PEG tube site.
GU- no foley  
Ext- Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.   

 
Pertinent Results:
Admission Labs

___ 10:15AM BLOOD WBC-11.4*# RBC-4.31 Hgb-12.7 Hct-37.9 
MCV-88 MCH-29.5 MCHC-33.5 RDW-12.2 Plt ___
___ 10:15AM BLOOD Neuts-81.9* Lymphs-9.0* Monos-4.8 Eos-3.6 
Baso-0.6
___ 06:45AM BLOOD ESR-79*
___ 10:15AM BLOOD Glucose-112* UreaN-13 Creat-0.6 Na-137 
K-3.7 Cl-98 HCO3-27 AnGap-16
___ 06:45AM BLOOD ALT-22 AST-13 LD(LDH)-169 AlkPhos-86 
TotBili-0.4
___ 06:45AM BLOOD Calcium-9.2 Phos-2.9 Mg-2.2
___ 06:45AM BLOOD TSH-0.46
___ 06:45AM BLOOD CRP-22.9*
___ 10:19AM BLOOD Lactate-1.5

Discharge Labs 
___ 07:10AM BLOOD WBC-10.6 RBC-4.13* Hgb-12.5 Hct-37.1 
MCV-90 MCH-30.2 MCHC-33.6 RDW-12.9 Plt ___
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-97 UreaN-10 Creat-0.5 Na-135 
K-3.9 Cl-96 HCO3-32 AnGap-11
___ 07:10AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.3

EMG: ___
Clinical Interpretation: Borderline abnormal study. There is 
increased 
individual jitter in one fiber pair on SFEMG. Although this does 
not meet 
diagnostic criteria, a post-synaptic disorder of neuromuscular 
transmission as in myasthenia ___ is a consideration. 
Botulinum toxin injections can increase jitter in muscles 
distant from the site of injection. There is no 
electrophysiologic evidence for a generalized disorder of motor 
neurons as in amyotrophic lateral sclerosis.  

CT abdomen ___

IMPRESSION: 
  
1.  No clear evidence to suggest malignancy in the abdomen or 
pelvis. 
2.  Distended gall bladder filled with stones.  Trace 
inflammatory change 
immediately posterior to the GB.  These findings raise concern 
for but are not entirely diagnostic of acute cholecystitis.  If 
patient has abnormal LFT's or right upper quadrant tenderness, 
further evaluation with ultrasound is recommended. 

CT Chest ___

IMPRESSION: 
  
1.  3.2-cm (TRV) x 4.1-cm (AP) x 4.7-cm (CC) heterogeneous mass 
in the region of the left lobe of the thyroid (3;8), which 
laterally displaces the left carotid from the larynx, and may 
invade the cricoid cartilage, 
cricopharyngeus, upper esophagus, innominate and left subclavian 
arteries.   
  
NOTE: This could be secondary to thyroid cancer, however this 
mass is highly concerning for a squamous cell carcinoma. A 
dedicated neck CT is recommended for further evaluation. 
  
2.  Multiple nodules in the right lung measuring up to 5-mm. 
Given that the neck mass is highly suspicious for malignancy, a 
6-month follow up is 
recommended to assess for stability of the nodules. 

CT Neck ___

IMPRESSION:  4.6 cm mass adjacent to or arising from the left 
lobe of the 
thyroid.  Further characterization with ultrasound can be 
considered, but 
ultimately biopsy would be required for definitive diagnosis.  
No cervical lymphadenopathy. 

Cytology Report ___
CYTOLOGY REPORT - Final
Specimen(s) Submitted:  FINE NEEDLE ASPIRATION, THYROID
Diagnosis  FNA, Thyroid, Left.
Specimen Adequacy:     Adequate.
General Category:      Positive for keratinizing squamous cell
carcinoma

Note: Tumor cells are positive for TTF-1, but negative for
thyrogobulin and p16 (pathcy non-specific pattern).  Primary 
thyroid
squamous cell carcinoma is favored based on location and TTF-1
staining. The tumor is high-grade. Dr. ___ 
___ were
informed on the diagnosis on ___ by Dr. ___.

CT HEAD ___
FINDINGS:
 
There is no evidence of hemorrhage, edema, mass effect or acute 
large vascular territory infarction.  Prominent ventricles and 
sulci suggest age-related atrophy.  Periventricular white matter 
hypodensities are consistent with chronic small vessel ischemic 
disease.  The basal cisterns appear patent and there is 
preservation of gray-white differentiation.
 
No fracture is identified.  The visualized paranasal sinuses, 
mastoid air
cells and middle ear cavities are clear.  Atherosclerotic mural 
calcification of the internal carotid arteries is noted.  The 
globes are unremarkable.
 
IMPRESSION:
No acute intracranial process.

FDG-PET ___
INTERPRETATION:
Comparison is made to CT neck ___
 
HEAD/NECK: There is a large 5.9 x 4.3cm FDG avid (SUVMax 27.9) 
cervical mass extending from the hyoid bone to the thoracic 
inlet.  There is no FDG avid cervical adenopathy.
 
CHEST: Multiple foci of FDG avidity in the lungs correspond to 
ground glass
pulmonary opacities in the superior left lower lobe (image 80), 
posterior right middle lobe and right lower lobe (image 87).  
There is an 11 x 16mm solid nodule in the medial left lower lobe 
which is not FDG avid (image 93).
 
ABDOMEN/PELVIS: There is a small volume of pneumoperitoneum.  
There is mild FDG avidity and subcutaneous air surrounding the 
gastrostomy tube tract (image 124). Dense gallstones layer in 
the bladder.
 
MUSCULOSKELETAL:  There are extensive degenerative changes at 
the left
femoro-acetabular joint.  Two pins traverse the left femoral 
neck.
 
Physiologic uptake is seen in the brain, myocardium, salivary 
glands, GI and  GU tracts, liver and spleen.
 
IMPRESSION: 
1.  Large FDG avid cervical mass corresponding with known
malignancy. No evidence of FDG avid nodal metastasis.   

2.  Multi-focal FDG avid ground glass pulmonary opacities 
suggestive of
pneumonia or aspiration pneumonitis.  
 
3.  16mm non-FDG avid left lower lobe nodule. 
 
4.  Small volume pneumoperitoneum compatible with recent 
gastrostomy placement.

 
Brief Hospital Course:
Ms. ___ is a ___ woman presenting with dysphagia s/p 
microlaryngoscopy vocal
fold injection, esophageal dilation and cricopharyngeal Botox 
without improvement.

#Squamous cell carcinoma: Ms. ___ presented with a 2 month 
history of dysphagia, which was extensively worked up as an 
outpatient. It was characterized by cricopharyngeal dysfunction, 
esophageal spasm, and vocal paresis. She was s/p botox to upper 
esophageal sphincter and cricopharyngeal botox and dilation. 
Laryngeal EMG was suggestive of myasthenia picture but CT neck 
showed thyroid mass. There was concern at one point of 
paraneoplastic syndrome causing her dysphagia and she underwent 
pheresis port placement, which was removed on transfer to OMED. 
FNA of the mass revealed keratinizing squamous cell carcinoma. 
She was unable to tolerate any PO intake, including her own 
secretions. She underwent PEG tube placement on ___, was 
started on tube feeds, and tolerated them well. She underwent 
her first dose of chemotherapy with Cisplatin on ___ and 
underwent mapping for XRT on ___. 
- She will be continued on Cisplatin in the outpatient setting 
with Dr. ___. However, she is discharged to rehab and 
***She should receive her next scheduled dose of CISPLATIN while 
in rehab. Her next dose is scheduled for ___
- She will follow up with radiation oncology on ___ for further radiation therapy planning.
Chemotherapy schedule: Cisplatin: C1D1 = ___.  Administer on 
days 1, 8, 15, 22, 29, 36 and 43. ___, 
___ and ___.

# Headache: Chronic, likely tension headache given distribution 
of pain and muscle spasm. Exacerbated by constant throat 
clearing and expectoration of saliva. CT head without contrast 
(___) showed no acute intracranial process. She was written 
for Oxycodone-Acetaminophen Elixir PRN pain. MRI was 
contraindicated due to possible metallic ear implants.  

# Dysphagia: Secondary to neck mass. Patient unable to tolerate 
PO intake and has a PEG tube in place. She receives bolus tube 
feeds with: 
Bolus tubefeeding: Isosource 1.5 Cal or Jevity 1.5 Full 
strength; # of cc per feeding: 240 cc; # of feedings/day: 5 
Advancement: Start at goal
Residual Check: Before each feeding Hold feeding for residual >= 
: 200 ml
Flush w/100 ml water before & after each feeding

# Nausea: The patient developed nausea 4 days after her first 
chemotherapy treatment with Cisplatin, likely a delayed response 
to chemotherapy. ACS was considered though EKG was at baseline. 
She was treated with Zofran and Compazine and should continue 
with these while at ___. 

*Transitional Issues*
1. Patient will need to receive next scheduled CISPLATIN 
chemotherapy on ___ while in rehab.
2. Patient is scheduled for Radiation oncology appointment at 
___ on ___ at 1pm in the ___ 
BASEMENT. 
3. Treatment of nausea with Compazine and Zofran

 
Medications on Admission:
1. Levothyroxine Sodium 137 mcg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. OxycoDONE-Acetaminophen Elixir ___ mL PO Q6H:PRN pain  

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. OxycoDONE-Acetaminophen Elixir ___ mL PO Q6H:PRN pain  
RX *oxycodone-acetaminophen [Roxicet] 5 mg-325 mg/5 mL ___ mL 
PEG every six (6) hours Disp #*1 Bottle Refills:*3
3. Levothyroxine Sodium 137 mcg PO DAILY 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
5. Prochlorperazine 10 mg PO Q6H:PRN nausea 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Squamous cell carcinoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you at the ___ 
___ ___. You came to the hospital because of 
difficulty swallowing. A CT scan showed a neck mass. A biopsy 
was taken showing keratinizing squamous cell carcinoma. Due your 
swallowing issues you had a PEG tube placed to provide 
nutrition. You were seen by the Radiation Oncology team who 
noted that you are a candidate for radiation therapy and you 
underwent a simulation/mapping with them. You underwent a PET/CT 
scan for staging of your cancer. 
From this point on the treatment for your cancer is performed in 
the outpatient setting. You will follow up with Dr. ___ 
in clinic for chemotherapy and with the radiation oncologist for 
outpatient management of radiation therapy. You will receive 
your next dose of chemotherapy with Cisplatin while in rehab. 
The chemotherapy can cause nausea (both immediately and a 
delayed response). This can be treated with zofran as you need 
it.

Thank you for allowing us to be a part of your care,
Your ___ team.

 
Followup Instructions:
___